US06008363
To a suspension of O-methyl-N-(2-chloro-5-thiazolylmethyl)-N'-nitroisourea (87% purity, 47.2 g, 0.164 mol) in water (410 ml) was added 40% aqueous solution of methylamine (25.5 g, 0.328 mol, 2.0 equivalents) dropwise at 23° C. After 2 hours of stirring at room temperature, the mixture was allowed to stand under ice-cooling and then, 36% hydrochloric acid (14.3 mol, 0.168 mol) was added dropwise at 13-20° C. The resulting crystals were collected by filtration to provide 39.1 g (95.6% yield) of 1-(2-chloro-5-thiazolylmethyl)-3-methyl-2-nitroguanidine.

reactant | O-methyl-N-(2-chloro-5-thiazolylmethyl)-N'-nitroisourea | 0.164 mol, 47.2 g | COC(NCC1=CN=C(S1)Cl)=N[N+](=O)[O-] | C6H7ClN4O3S
reactant | methylamine | 0.328 mol, 25.5 g, 2.0 equivalents | CN | CH5N
reactant | hydrochloric acid | 14.3 mol | Cl | ClH
solvent | water | 410 ml | O | H2O
product | 1-(2-chloro-5-thiazolylmethyl)-3-methyl-2-nitroguanidine | 39.1 g, 95.6% yield | ClC=1SC(=CN1)CNC(=N[N+](=O)[O-])NC | C6H8ClN5O2S
